US07071175B1
To a solution of diethyl malonate (710 μL, 4.7 mmol) and (5-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.04 g, 4.7 mmol) in methylene chloride/DMF (1:1, 5 mL) was added piperidine (46 μL, 0.47 mmol) and acetic acid (27 μL, 0.47 mmol). The reaction mixture was stirred for 72 h at room temperature and then for 16 h at 45° C. Heptane was added slowly to give 2-(6-tert-butoxycarbonylaminopyridin-3-ylmethylene)-malonic acid diethyl ester (0.69 g, 40%) as grey crystals.

reactant | diethyl malonate | 4.7 mmol, 710 μL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | (5-formyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 4.7 mmol, 1.04 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)C=O)=O | C11H14N2O3
reactant | piperidine | 0.47 mmol, 46 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.47 mmol, 27 μL | C(C)(=O)O | C2H4O2
solvent | methylene chloride DMF | 5 mL | C(Cl)Cl.CN(C)C=O
solvent | Heptane | CCCCCCC | C7H16
product | 2-(6-tert-butoxycarbonylaminopyridin-3-ylmethylene)-malonic acid diethyl ester | 0.69 g, 40% | C(C)OC(C(C(=O)OCC)=CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H24N2O6
